US06194487B1
Next, the 1,4-butanedisulfonyl chloride vapor in the condensing chamber 2 was adiabatically expanded, and the introduced base particles were exposed thereto for 15 minutes. Consequently, 1,4-butanedisulfonyl chloride condensed on the surface of the base particles. A polymerization reaction, using as a catalyst triethylamine contained in the base particles, took place between 1,4-butanedisulfonyl chloride condensed on the surface of the base particles and 1,4-benzenedithiol contained therein, forming a film of 1,4-benzenedithiol-1,4-butanedisulfonylchloride co-polymer on the surface of the base particles.

reactant | 1,4-butanedisulfonyl chloride | C(CCCS(=O)(=O)Cl)S(=O)(=O)Cl | C4H8Cl2O4S2
reactant | 1,4-benzenedithiol | C1(=CC=C(C=C1)S)S | C6H6S2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1,4-benzenedithiol 1,4-butanedisulfonylchloride | C1(=CC=C(C=C1)S)S.C(CCCS(=O)(=O)Cl)S(=O)(=O)Cl | InChI=1S/C6H6S2.C4H8Cl2O4S2/c7-5-1-2-6(8)4-3-5;5-11(7,8)3-1-2-4-12(6,9)10/h1-4,7-8H;1-4H2
